US05025025
Ammonia (75 mL) is liquified in a flask at -40° and a solution of 5 g (28 mmol) of p-(4-hydroxybutyl)anisole in 25 mL ethanol is added. 2.76 g (0.12 mmol) of sodium is added in small pieces over 1 hour. The blue solution is then stirred at -40° for 10 minutes during which time the solution decolorizes with the formation of a white precipitate. The reaction is quenched using 5.88 g solid ammonium chloride followed by 25 mL water. The solvent is evaporated under a stream of nitrogen and then poured into brine and extracted with ether (4×100 mL). The organic extracts are combined, dried, filtered and subjected to evaporation to give 1-methoxy-4-(4-hydroxybutyl)cyclohexa1,4-diene as an oil.

reactant | Ammonia | 75 mL | N | H3N
reactant | p-(4-hydroxybutyl)anisole | 28 mmol, 5 g | OCCCCC1=CC=C(C=C1)OC | C11H16O2
reactant | sodium | 0.12 mmol, 2.76 g | [Na] | Na
solvent | ethanol | 25 mL | C(C)O | C2H6O
product | 1-methoxy-4-(4-hydroxybutyl)cyclohexa1,4-diene | COC1=CCC(=CC1)CCCCO | C11H18O2
